US07230062B2
A toluene solution (1 L) containing pyruvic acid (440 g, 5.0 mol), n-octanol (651 g, 5.0 mol) and p-toluenesulfonic acid monohydrate (2.5 g) was heated and refluxed for 16 hours under nitrogen flow. The reaction led to generation of water in the system. However, the water was removed using Dean-Stark trap. The resultant reaction solution was cooled down to room temperature, followed by removal of toluene using an evaporator under a reduced pressure. The residual was then purified using reduced pressure distillation (2 mmHg, 82 to 92° C.) to give octyl pyruvate (762 g, yield: 76%).

reactant | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
reactant | pyruvic acid | 5.0 mol, 440 g | C(C(=O)C)(=O)O | C3H4O3
reactant | n-octanol | 5.0 mol, 651 g | C(CCCCCCC)O | C8H18O
catalyst | p-toluenesulfonic acid monohydrate | 2.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | octyl pyruvate | 762 g, yield: 76% | C(C(=O)C)(=O)OCCCCCCCC | C11H20O3
